US08802679B2
tert-Butyl (2-{[3-(2-{4-[3-chloro-5-(hydroxymethyl)pyridin-2-yl]piperazin-1-yl}pyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (288 mg) was dissolved in dichloromethane (8 ml), and manganese dioxide (1.16 g) was added thereto, followed by stirring at room temperature for 1.5 hours. Manganese dioxide (220 mg) was added thereto, followed by additionally stirring at room temperature for 1 hour. The reaction mixture was filtered using Celite as a filtration assistant, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH=100/0 to 96/4) to obtain tert-butyl {2-[(3-{2-[4-(3-chloro-5-formylpyridin-2-yl)piperazin-1-yl]pyrimidin-5-yl}benzyl)(methyl)amino]-2-oxoethyl}carbamate (235 mg).

reactant | tert-Butyl (2-{[3-(2-{4-[3-chloro-5-(hydroxymethyl)pyridin-2-yl]piperazin-1-yl}pyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 288 mg | ClC=1C(=NC=C(C1)CO)N1CCN(CC1)C1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C29H36ClN7O4
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 1.16 g | [O-2].[O-2].[Mn+4]
catalyst | Manganese dioxide | 220 mg | [O-2].[O-2].[Mn+4]
product | tert-butyl {2-[(3-{2-[4-(3-chloro-5-formylpyridin-2-yl)piperazin-1-yl]pyrimidin-5-yl}benzyl)(methyl)amino]-2-oxoethyl}carbamate | 235 mg | ClC=1C(=NC=C(C1)C=O)N1CCN(CC1)C1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C29H34ClN7O4
